US05025031
Sulfamic acid 2-[3-[2-[(aminosulfonyl)oxy]ethoxy]phenoxy]ethyl ester
To a suspension of 25.0 g (0.13 mole) of resorcinol-bis(β-hydroxyethyl)ether (Lancaster Synthesis, Windham, NH 03087) in 150 ml of acetonitrile was added simultaneously 170 ml (0.53 mole) of sulfamoyl chloride solution (3.14M solution in acetonitrile) and 54.1 g (0.54 mole) of triethylamine (temperature≤15° C.) and the reaction mixture was stirred at ambient temperature overnight. The reaction mixture was treated with 200 ml of water and 300 ml of ethyl acetate, the layers were separated, and the organic layer was washed with two 200 ml portions of water. The organic solvents were evaporated under reduced pressure and the solid residue was treated with 500 ml of ethyl acetate and 200 ml of water. The mixture was filtered1 and the filtrate layers were separated. The organic layer was washed with five 200 ml portions of water (filtrate pH neutral to pH paper) and dried (magnesium sulfate). The solvent was evaporated under reduced pressure and the solid residue was dissolved in 300 ml of ethyl acetate and filtered through celite. The filtrate was evaporated under reduced pressure and the solid residue was recrystallized from ethyl acetate to yield 19.6 g (44%) of an off-white solid, mp 147°-149° C.

reactant | resorcinol bis(β-hydroxyethyl)ether | 0.13 mole, 25.0 g | C1(O)=CC(O)=CC=C1.OCCOCCO
reactant | sulfamoyl chloride | 0.53 mole, 3.14M, 170 ml | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | triethylamine | 0.54 mole, 54.1 g | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | Sulfamic acid 2-[3-[2-[(aminosulfonyl)oxy]ethoxy]phenoxy]ethyl ester | 19.6 g, 44% | NS(=O)(=O)OCCOC=1C=C(OCCOS(N)(=O)=O)C=CC1 | C10H16N2O8S2
